Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: (history gathered from patient, pt' son and daughter and 
___ 
___ is a lovely ___ yo right handed woman with PMH 
significant for HTN, Hx breast CA and a right caudate IPH with 
IVH in ___ (believed to be ___ HTN) who presents as a 
transfer from ___ with a left IPH. 

The patient was in her usual state of health last night before 
bed and that is the last this she can recall. This afternoon her 
son tried to call her but she did not pick up so he went over to 
check on her. She did not answer the door and he could see that 
there was a lamp knocked over inside. They called the police and 
eventually got the door open and found the patient on the floor 
in the living room with a couple of lamps knocked onto the 
ground. She was awake and interactive appropriately with her son 
but had trouble getting up. 

She was taken to ___ where a CT identified a left temporal 
IPH prompting transfer to ___. 

The patient had a mechanical fall in the shower ___ weeks ago. 
no other major recent events or illnesses. She was taken off of 
one of her HTN medications recently because she was well 
controlled. 

On neuro ROS: the pt denies headache, loss of vision, blurred 
vision, diplopia, oscilopsia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech. Denies focal 
weakness, numbness, paresthesias. No bowel or bladder 
incontinence or retention. 

On general ROS: the pt denies recent fever or chills. No night 
sweats or recent weight loss or gain. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
Breast Ca ___ yrs ago treated at ___ with a lumpectomy
then radiation for 6 months followed by Tamoxifen

MEDICATIONS:
Amlodipine 5mg daily 
Atenolol 50mg daily 
 
Social History:
___
Family History:
Father had a MI at ___ then died at ___ from a second MI. Mother 
lived until ___. Sister died from breast cancer at ___ other 3 
siblings healthy). Has four children (3G1B) who are healthy
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.4  112  122/87  20  99% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress, leaning over 
to the right in bed. 
HEENT: Neck is supple. Sclera are non-injected. Mucous membranes 
are moist. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No 
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Awake and alert. She is oriented to name but not 
location or date/day/year. She is unable to recall any events 
from today. Her memory of yesterday is spotty as well (does not 
recall interactions with her family). She does recall the 
election. She is unable to tell me what holiday is coming up. 
She is grossly inattentive during exam requiring frequent 
redirection. She pulls at her IVs and oxygen finger probe. Her 
language is fluent with rare paraphasic errors (mostly 
phonemic). She repeats well but with paraphasias. She has 
trouble naming even high frequency objects (is unable to name 
any objects on the stroke card - does better with actual 
objects). She was unable to read. She was unable to describe the 
cookie theft card (saying "this would be cubes" and pointing to 
the cabinets, she traces the flow of the water out of the sink 
with her finger and circles the people but is not say anything 
when asked about it). Prosody was normal. she was not 
dysarthric. She was able to follow simple commands but with ? 
left/right confusion usually just using her right hand. She was 
unable to do complex tasks and was unable to point at objects 
when described to her ("what would you use to wash your hands" 
ect). Occasional perseveration on prior tasks. was unable to 
recall even single objects or facts. was unable to test special 
memory in the ED. 

Cranial Nerves:
I: not tested
II:  pupils equally round and briskly reactive to light. Visual 
fields were difficult to assess due to inattention - ? LLQ 
deficit. 
III-IV-VI: Normal conjugated, extra-ocular eye movements in all 
directions of gaze. No nystagmus or diplopia. saccadic 
intrusions.
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric 
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. left pronation 
without drift. No asterixis or myoclonus noted.
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes: difficult to illicit as patient would not relax the 
limb being tested. 
Toes are up on the left and down on the right. 

Sensory: normal and symmetric perception of light touch and 
temperature. 

Coordination: Finger to nose without dysmetria bilaterally. RAM 
were symmetric.

Gait: unable to test 

===============
Discharge Exam: 
===============
VS Tm/Tc 98.6/97.6 BP 106-137/53-82 HR ___ RR ___ SpO2 
94-97% RA FSBG 98

Gen: awake, lying in bed, NAD
HEENT: NC/AT, MMM
CV: brisk capillary refill
Pulm: breathing comfortably on RA

Neuro:
-MSE: oriented to name, ___, and "hospital" but not city 
or hospital name. Able to name some high-frequency objects 
including pen, flashlight, watch, and spoon, but she is unable 
to name "jelly" and butter. Fluent speech without paraphasias. 
Follows commands. Appropriate emotional expression. Anosagnosia. 
Recalls that she fell at home, but does not remember that she 
had a head bleed.
-CN: mild R facial palsy with flattening of the nasolabial fold, 
but symmetric upon activation. Tongue midline. EOMI. PERRL (1.5 
-->1)
-Motor: Strength ___ throughout.
-Reflexes: grossly wnl

 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 06:35AM BLOOD WBC-8.4 RBC-4.71 Hgb-15.2 Hct-44.3 MCV-94 
MCH-32.3* MCHC-34.3 RDW-12.9 RDWSD-44.1 Plt ___

___ 05:45PM BLOOD Neuts-68.4 ___ Monos-10.4 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.31* AbsLymp-2.44 
AbsMono-1.26* AbsEos-0.03* AbsBaso-0.03

___ 05:45PM BLOOD ___ PTT-29.0 ___

___ 05:45PM BLOOD Glucose-112* UreaN-28* Creat-1.0 Na-133 
K-4.6 Cl-93* HCO3-21* AnGap-24*

___ 05:45PM BLOOD Calcium-10.0 Phos-3.3 Mg-1.9

___ 05:45PM BLOOD cTropnT-<0.01
___ 06:35AM BLOOD cTropnT-<0.01

===============
STROKE WORK-UP:
===============
___ 06:35AM BLOOD %HbA1c-5.1 eAG-100

___ 06:35AM BLOOD Triglyc-128 HDL-58 CHOL/HD-3.2 LDLcalc-99

___ 06:35AM BLOOD TSH-5.8*

===============
DISCHARGE LABS:
===============
___ 05:50AM BLOOD WBC-8.0 RBC-4.38 Hgb-14.0 Hct-41.0 MCV-94 
MCH-32.0 MCHC-34.1 RDW-12.6 RDWSD-43.7 Plt ___

___ 05:50AM BLOOD ___ PTT-26.5 ___

___ 05:50AM BLOOD Glucose-83 UreaN-21* Creat-1.0 Na-132* 
K-4.0 Cl-95* HCO3-20* AnGap-21*

___ 05:50AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.8

========
IMAGING:
========
NCHCT (___): small left temporal IPH. extensive white matter 
hypodensities. evidence of prior right basal ganglia injury. 

EEG (___) 
IMPRESSION: This is an abnormal awake and sleep EEG, because of 
frequent bursts of generalized, frontally predominant delta 
slowing indicative of a deep subcortical midline dysfunction. 
There are no clear epileptiform discharges or electrographic 
seizures. 

 
Brief Hospital Course:
Ms. ___ was admitted to the neurology stroke service for 
monitoring and further work up of her intraparenchymal 
hemorrhage. She was continued on her home antihypertensive 
medications without change in order to prevent further bleeding. 


She underwent a brain MRI which did not show evidence of an 
acute infarction with secondary hemorrhage and there were no 
masses seen; however, the study was severely limited due to lack 
of patient cooperation. She will have a follow-up scan as an 
outpatient in ___ weeks to assess for interval change and 
possible causes for her bleed. 

Her ability to name objects improved slightly during her 
hospital stay, but she continues to be disoriented to place and 
year (continues to answer that we are in ___ or on the ___ 
and that it is ___. Because the location of her bleed was not 
consistent with the degree of acute cognitive changes seen in 
Ms. ___, we were concerned about possible underlying dementia 
that would be expected with evolving cerebral amyloid 
angiopathy; however, her family notes that prior to this event, 
she was living independently and performing all ADLs without 
assistance, making this an abrupt/acute change. We obtained an 
EEG to rule out occult seizures. This showed generalized, 
frontally predominant delta slowing but no seizure or 
epileptiform activity.   

She was found to have a mild macrocytic anemia. B12 and folate 
levels were drawn, but are pending at the time of discharge. She 
was previously found to be B12 deficient. We started her 
empirically on cyanocobalamin supplementation. 

====================
Transitional Issues:
====================
1. F/U B12 and folate; initiate/continue supplementation as 
needed
2. F/U interval MRI brain ___ weeks) to assess for underlying 
cause(s) of bleed, including CAA versus mass. 
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 250 mcg PO DAILY 
Continue taking this vitamin until instructed to stop by your 
doctor  

2.  amLODIPine 5 mg PO DAILY
  
3.  Atenolol 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Hemorrhagic stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
You were hospitalized due to symptoms of difficulty speaking and 
thinking resulting from an ACUTE HEMORRHAGIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
breaks and leaks blood into the brain. The brain is the part of 
your body that controls and directs all the other parts of your 
body, so damage to the brain from being deprived of its blood 
supply can result in a variety of symptoms. 
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. 

Your risk factors are:  
- High blood pressure
- Possible cerebral amyloid angiopathy
  
It is very important to keep your blood pressure well-controlled 
to help prevent future strokes. Please continue taking your 
blood pressure medicines (atenolol and amlodipine) as previously 
prescribed. 
  
Please followup with Neurology and your primary care physician 
as listed below. You will also need to have a repeat MRI of your 
brain in ___ weeks to further assess the bleed. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___